US04515948
A mixture of 11.25 g. of 4-acetamido-3,5-dihydroxy-benzoic acid methyl ester, 12.1 g. of allyl bromide, 15 g. of dry potassium carbonate and 100 ml. of acetone was boiled and stirred on a reflux condenser for 17 hours. The acetone was removed by distillation. The residue was taken up in water/ethyl acetate. Thereafter, the organic phase separated, washed with water, dried and evaporated. After recrystallization from ethyl acetate/petroleum ether, there was obtained 4-acetamido-3,5-diallyloxy-benzoic acid methyl ester having a melting point of 135°-137° C.

reactant | 4-acetamido-3,5-dihydroxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)O)NC(C)=O)O)=O | C10H11NO5
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | acetone | CC(=O)C | C3H6O
product | 4-acetamido-3,5-diallyloxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OCC=C)NC(C)=O)OCC=C)=O | C16H19NO5
